US09085698B2
This Example shows the preparation of exemplary compound Dye 9 and its physical properties. A mixture of 1.34 g (10 mmol) 2-methyl-oxazolo[4,5-b]pyridine and 2 ml ethyliodide in a closed system was kept 2 h at 110° C. The product was precipitated with acetone and filtered off. The yellow crystalline product was filtered off and washed with diethyl ether to provide 2.47 g (86%) 4-ethyl-2-methyl-oxazolo[4,5-b]pyridinium iodide, which was of sufficient purity to carry on to the next synthetic step.

reactant | 2-methyl-oxazolo[4,5-b]pyridine | 10 mmol, 1.34 g | CC=1OC=2C(=NC=CC2)N1 | C7H6N2O
reactant | ethyliodide | 2 ml | C(C)I | C2H5I
product | 4-ethyl-2-methyl-oxazolo[4,5-b]pyridinium iodide | 2.47 g, 86% | [I-].C(C)N1C=2C(=CC=C1)OC([NH+]2)C | InChI=1S/C9H12N2O.HI/c1-3-11-6-4-5-8-9(11)10-7(2)12-8;/h4-7H,3H2,1-2H3;1H
